US06784185B2
4-(2-n-Propoxybenzamido)-3-n-propyl-1H-pyrazole-5-Carboxamide
A solution of 2-n-propoxybenzoyl chloride (57.6 g, 0.291 mol) in dichloromethane (50 ml) was added dropwise to a stirred, ice-cooled suspension of 4-amino-3-propyl-1H-pyrazole-5-Carboxamide (the compound of Preparation 8 of WO 98/49166) (35.0 g, 0.208 mol) in dry pyridine (350 ml) and the resulting mixture stirred for 18 hours at room temperature, then evaporated under reduced pressure. The residue was azeotroped with toluene (2×100 ml) and the resulting brown solid triturated with ether (100 ml) to give the title compound (83.0 g) as a beige solid.

reactant | 2-n-propoxybenzoyl chloride | 0.291 mol, 57.6 g | C(CC)OC1=C(C(=O)Cl)C=CC=C1 | C10H11ClO2
reactant | 4-amino-3-propyl-1H-pyrazole-5-Carboxamide | NC=1C(=NNC1C(=O)N)CCC | C7H12N4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-n-Propoxybenzamido)-3-n-propyl-1H-pyrazole-5-Carboxamide | 83.0 g | C(CC)OC1=C(C(=O)NC=2C(=NNC2C(=O)N)CCC)C=CC=C1 | C17H22N4O3
